US07635785B2
Aluminum Diethylphosphinate
1500 g (14 mol) of sodium hypophosphite monohydrate were dissolved in 7.5 kg of water and used as initial charge in a 16 l jacketed pressure reactor composed of enameled steel. Once the reaction mixture had been heated to 100° C., ethylene was introduced by way of a reducing valve set to 6 bar until saturation had been reached in the reactor. A solution of 22 g (1 mol %) of sodium percarbonate and 16 g of tetraacetylethylenediamine in 300 g of water was uniformly metered in over a period of 6 h with constant stirring, at an ethylene pressure of 6 bar and a temperature of from 100 to 110° C. After a continued reaction time of 1 h, depressurization of the reactor, and cooling to about 90° C., 3000 g (4.67 mol of aluminum) of a 46% strength aqueous solution of Al2(SO4)3 14H2O were added over a period of 60 min. The resultant solid was then filtered off, washed with 2 l of hot water and vacuum-dried at 130° C. Yield: 1720 g (93.4% of theory).

reactant | sodium hypophosphite monohydrate | 14 mol, 1500 g | O.[PH2](=O)[O-].[Na+]
reactant | ethylene | C=C | C2H4
reactant | sodium percarbonate | 22 g | C(=O)([O-])[O-].C(=O)([O-])[O-].OO.OO.OO.[Na+].[Na+].[Na+].[Na+]
reactant | tetraacetylethylenediamine | 16 g | C(C)(=O)N(CCN(C(C)=O)C(C)=O)C(C)=O | C10H16N2O4
reactant | aluminum | 4.67 mol | [Al] | Al
solvent | water | 7.5 kg | O | H2O
solvent | water | 300 g | O | H2O
product | Aluminum Diethylphosphinate | C(C)P([O-])(=O)CC.[Al+3].C(C)P([O-])(=O)CC.C(C)P([O-])(=O)CC | InChI=1S/3C4H11O2P.Al/c3*1-3-7(5,6)4-2;/h3*3-4H2,1-2H3,(H,5,6);/q;;;+3/p-3
